US07553973B2
Step 1: Methyl 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylate
To a solution of 7-bromo-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one (1.17 g, 3.63 mmol) in DMSO (21 ml) and methanol (12 ml) was added triethylamine (1.0 mL, 7.26 mmol) and [Pd(dppf)Cl2]2—CH2Cl2 (0.593 g, 0.73 mmol). The reaction mixture was stirred overnight at 65° C. with a balloon of carbon monoxide. After cooling to rt, the reaction mixture was diluted with EtOAc—CH2Cl2 (9:1) washed with water (3×) and brine. The organic phase was dried over MgSO4 and evaporated to dryness. The residue was purified on silica gel (hexanes-EtOAc, 8:2) to afford the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.45 (m, 1H), 8.12 (s, 1H), 7.92 (m, 2H), 6.80 (s, 1H), 3.97 (s, 3H), 2.85 (s, 3H).

reactant | 7-bromo-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one | 3.63 mmol, 1.17 g | BrC1=CC=C2C(=CC(OC2=C1)=O)C=1N=C(SC1)C | C13H8BrNO2S
reactant | triethylamine | 7.26 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
solvent | DMSO | 21 ml | CS(=O)C | C2H6OS
solvent | methanol | 12 ml | CO | CH4O
solvent | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
product | Methyl 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylate | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C(=O)OC)=O | C15H11NO4S
